US05247085
b) 9-[3-Benzyloxy-2-(diethoxyphosphorylmethoxy)propoxy]-6-chloro-2-formamidopurine
A solution of 6-[3-benzyloxy-2-(diethoxyphosphorylmethoxy)propoxyamino]-4-chloro-2,5-diformamidopyrimidine (760 mg, 1.4 mmol) in diethoxymethyl acetate (2 ml) was stirred and heated in an oil bath at 120° C. for 2 hours. After cooling to ambient temperature, the solvent was evaporated and the residue dissolved in methanol (10 ml) and 0.880 ammonia (1 ml). After 15 minutes at ambient temperature the solution was evaporated to dryness. The residue obtained was chromatographed on silica gel (dichloromethane/methanol, 98:2 as eluant) to give the title compound as a colourless oil (550 mg, 75%). IR: νmax (film), 3400, 3220, 3110, 2980, 2900, 1710, 1610, 1580, 1510, 1475, 1440, 1385, 1330, 1240, 1160, 1140, 1095, 1050, 1020, 980, 920, 820, 780, 740, 700 cm-1. 1H NMR: δH [(CD3)2SO] 1.20, 1.21 (6H, 2×t, P-(OCH2CH3)2), 3.6-3.75 (2 H, m, CHCH2), 3.8-4.15 (7H, m, CH2CHCH2, OCH2P, P-(OCH2CH3)2), 4.52 (2H, s, OCH2Ph), 4.45-4.65 (2H, m, N-OCH2), 7.25-7.40 (5H, m, Ph), 8.81 (1H, s, H-8), 9.37 (1H, br.s, NHCHO), 11.31 (1H, br.s, D2O exchangeable NHCHO). Found: C, 48.11; H, 5 37; N, 12.50%. C21H27N5O7PCl requires: C, 47.77; H, 5.16; N, 13.27%. m/z: C21H28N5O7PCl requires 528.1415; observed 528.1363 (M +H+).

reactant | 6-[3-benzyloxy-2-(diethoxyphosphorylmethoxy)propoxyamino]-4-chloro-2,5-diformamidopyrimidine | 1.4 mmol, 760 mg | C(C1=CC=CC=C1)OCC(CONC1=C(C(=NC(=N1)NC=O)Cl)NC=O)OCP(=O)(OCC)OCC | C21H29ClN5O8P
solvent | diethoxymethyl acetate | 2 ml | C(C)(=O)OC(OCC)OCC | C7H14O4
product | 9-[3-Benzyloxy-2-(diethoxyphosphorylmethoxy)propoxy]-6-chloro-2-formamidopurine | 550 mg, 75% | C(C1=CC=CC=C1)OCC(CON1C2=NC(=NC(=C2N=C1)Cl)NC=O)OCP(=O)(OCC)OCC | C21H27ClN5O7P
